US09337358B2
2,5-Bis(4-bromo-3-tetradecyl-2-thienyl)-thiazolo[5,4-d]thiazole
To a 50 mL round bottom flask were added to 0.800 g of 2,5-bis(5,4 dibromo-3-tetradecyl-2-thienyl)-thiazolo[5,4-d]thiazole, 0.500 g Zn dust, 3 mL 3 M HCl, 2 mL acetic acid, 15 mL ethanol, and 15 mL toluene. The flask was heated to 100° C. for 3 hours. The reaction mixture was then filtered and the solvents were removed by rotary evaporation. The residue was purified by column chromatography using a mixture of hexane and dichloromethane to give the desired compound. The NMR data were obtained and were consistent with those of the desired compound.

reactant | 2,5-bis(5,4 dibromo-3-tetradecyl-2-thienyl)-thiazolo[5,4-d]thiazole | 0.800 g | BrC1=C(C(=C(S1)C=1SC=2N=C(SC2N1)C=1SC(=C(C1CCCCCCCCCCCCCC)Br)Br)CCCCCCCCCCCCCC)Br | C40H58Br4N2S4
reactant | HCl | 3 M, 3 mL | Cl | ClH
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
reactant | ethanol | 15 mL | C(C)O | C2H6O
catalyst | Zn | 0.500 g | [Zn] | Zn
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 2,5-Bis(4-bromo-3-tetradecyl-2-thienyl)-thiazolo[5,4-d]thiazole | BrC=1C(=C(SC1)C=1SC=2N=C(SC2N1)C=1SC=C(C1CCCCCCCCCCCCCC)Br)CCCCCCCCCCCCCC | C40H60Br2N2S4
